US07087605B2
N-[1-(3-tert-Butyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopentanecarboxamide
In analogy to the procedure for Example 36A, 110 mg (0.50 mmol) 6-(1-aminopropyl)-3-tert-butyl-1,2,4-triazin-5(4H)-one, 70 mg (0.50 mmol) cyclopentanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-tert-butyl-1,2,4-triazin-5(4H)-one | 0.50 mmol, 110 mg | NC(CC)C=1C(NC(=NN1)C(C)(C)C)=O | C10H18N4O
reactant | cyclopentanecarbonyl chloride | 0.50 mmol, 70 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
product | N-[1-(3-tert-Butyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopentanecarboxamide | C(C)(C)(C)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C16H26N4O2
